US07659263B2
To a solution of methyl 4-(2-acetoxyethyl)-6-cyclohexyl-5-(2,4-dihydroxyphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate (505 mg, 1.11 mmol) in methanol (5 ml) was added potassium carbonate (476 mg, 3.44 mmol) and the mixture was stirred at room temperature for 25 min. The reaction mixture was concentration under reduced pressure, and ethyl acetate (5 ml) was added to the residue. The organic layer was washed successively with 1N hydrochloric acid (4 ml) and saturated brine (5 ml×2), and dried over sodium sulfate. Filtration and concentration gave methyl 6-cyclohexyl-5-(2,4-dihydroxyphenyl)-4-(2-hydroxyethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate as a crude product. The obtained compound was used for Step 11 without further purification.

reactant | methyl 4-(2-acetoxyethyl)-6-cyclohexyl-5-(2,4-dihydroxyphenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 1.11 mmol, 505 mg | C(C)(=O)OCCN1C2=C(C(=C1C1=C(C=C(C=C1)O)O)C1CCCCC1)SC(=C2)C(=O)OC | C24H27NO6S
reactant | potassium carbonate | 3.44 mmol, 476 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 5 ml | CO | CH4O
product | methyl 6-cyclohexyl-5-(2,4-dihydroxyphenyl)-4-(2-hydroxyethyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | C1(CCCCC1)C=1C2=C(N(C1C1=C(C=C(C=C1)O)O)CCO)C=C(S2)C(=O)OC | C22H25NO5S
